US06515011B2
1-((2R)-2-Hydroxy-2-phenylpropanoyl)-N-(2-(2-(ethoxycarbonylethylamino)ethyl)-5-chlorobenzyl)-L-prolinamide
To a stirred solution of 1-((2R)-2-hydroxy-2-phenylpropanoyl)-N-(2-(2-aminoethyl)-5-chlorobenzyl)-L-prolinamide (90 mg, 0.21 mmol) in EtOH (2 mL) was added ethyl acrylate (25 microliters, 0.22 mmol). The mixture was stirred at ambient temperature for 48 h. The solvent was removed under reduced pressure and the residue was purified by flash silica gel column chromatography using a gradient elution of 5% to 7.5% MeOH in CH2Cl2. The product-containing fractions were combined to give the title compound as an amorphous solid upon removal of the solvents in vacuo (TLC Rf=0.4 (95:5 CH2Cl2:MeOH); HPLC RT=2.95 min, method A; LC-MS m/z=530).

reactant | 1-((2R)-2-hydroxy-2-phenylpropanoyl)-N-(2-(2-aminoethyl)-5-chlorobenzyl)-L-prolinamide | 0.21 mmol, 90 mg | O[C@](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CCN)CCC1)(C)C1=CC=CC=C1 | C23H28ClN3O3
reactant | ethyl acrylate | 0.22 mmol, 25 microliters | C(C=C)(=O)OCC | C5H8O2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1-((2R)-2-Hydroxy-2-phenylpropanoyl)-N-(2-(2-(ethoxycarbonylethylamino)ethyl)-5-chlorobenzyl)-L-prolinamide | O[C@](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CCNCCC(=O)OCC)CCC1)(C)C1=CC=CC=C1 | C28H36ClN3O5
